US04127729
By substituting Nα -(3-(acetylthio)-2-methoxycarbonylmethylpropanoyl]-L-lysine for the Nα -[3-acetylthio-2-methoxycarbonylmethylpropanoyl]-L-arginine in the procedure of Example 19, Nα -[2-(carbamoylmethyl)-3-mercaptopropanoyl]-L-lysine is obtained.

reactant | Nα -(3-(acetylthio)-2-methoxycarbonylmethylpropanoyl]-L-lysine | C(C)(=O)SCC(C(=O)N[C@@H](CCCCN)C(=O)O)CC(=O)OC | C14H24N2O6S
reactant | Nα -[3-acetylthio-2-methoxycarbonylmethylpropanoyl]-L-arginine | C(C)(=O)SCC(C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CC(=O)OC | C14H24N4O6S
product | Nα -[2-(carbamoylmethyl)-3-mercaptopropanoyl]-L-lysine | C(N)(=O)CC(C(=O)N[C@@H](CCCCN)C(=O)O)CS | C11H21N3O4S
